US08017607B2
To a mixture of 1-methanesulfonyl-piperidin-4-ylamine; compound with trifluoro-acetic acid (229.4 mg, 0.785 mmol, US20060014708) in N,N-dimethyl formamide (4.0 mL) was added TEA (101 mg, 1.004 mmol) and 1,1′-carbonyldiimidazole (Aldrich, 134 mg, 0.826 mmol). After it was stirred at rt for 2 hrs, the solvent was removed and the reaction mixture was extracted with EtOAc, and washed with water (2×), and saturated NaCl. The organic phase was separated, dried over Na2SO4, filtered and concentrated to give imidazole-1-carboxylic acid (1-methanesulfonyl-piperidin-4-yl)-amide (150.7 mg, 70.5%) which was used without further purification.

reactant | 1-methanesulfonyl-piperidin-4-ylamine; compound with trifluoro-acetic acid | FC(C(=O)O)(F)F.CS(=O)(=O)N1CCC(CC1)N
reactant | 1,1′-carbonyldiimidazole | 0.826 mmol, 134 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethyl formamide | 4.0 mL | CN(C=O)C | C3H7NO
product | imidazole-1-carboxylic acid (1-methanesulfonyl-piperidin-4-yl)-amide | 150.7 mg, 70.5% | CS(=O)(=O)N1CCC(CC1)NC(=O)N1C=NC=C1 | C10H16N4O3S
